US07732435B2
7-(4-Chlorophenyl)-8-isopropyl-2-methyl-3H-chromeno[7,8-d]imidazol-6-one (and tautomer)
7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one (80 mg, 0.243 mmol) is dissolved in glacial acetic acid (1.5 ml), dilute hydrochloric acid (2M, 0.1 ml) is added, and the mixture is heated at 120° C. for 90 min. The reaction mixture is cooled to room temperature, diluted with ethyl acetate (50 ml) and washed with saturated sodium bicarbonate solution (3×40 ml), water (40 ml) and saturated brine (40 ml). The organic layer is dried (MgSO4), filtered and evaporated to give a brown solid. This is triturated with ethyl acetate containing a few drops of methanol and filtered to give a pale yellow powder.

reactant | 7,8-Diamino-3-(4-chlorophenyl)-2-isopropyl-chromen-4-one | 0.243 mmol, 80 mg | NC1=CC=C2C(C(=C(OC2=C1N)C(C)C)C1=CC=C(C=C1)Cl)=O | C18H17ClN2O2
reactant | hydrochloric acid | 2M, 0.1 ml | Cl | ClH
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 7-(4-Chlorophenyl)-8-isopropyl-2-methyl-3H-chromeno[7,8-d]imidazol-6-one | ClC1=CC=C(C=C1)C1=C(OC2=C(C1=O)C=CC=1NC(=NC12)C)C(C)C | C20H17ClN2O2
